US07652022B2
Stage 135.2: 3-Dimethylaminomethyl-5-trifluoromethyl-phenylamine
3-Amino-N,N-dimethyl-5-trifluoromethyl-benzamide (2.0 g; 8.6 mmol) dissolved in THF (20 ml) is reduced with a 1 M solution of BH3.THF (26 ml) as described in Stage 134.1, yielding the title compound: MS: [M+1]+=219.

reactant | 3-Amino-N,N-dimethyl-5-trifluoromethyl-benzamide | 8.6 mmol, 2.0 g | NC=1C=C(C(=O)N(C)C)C=C(C1)C(F)(F)F | C10H11F3N2O
reactant | BH3.THF | 26 ml | B.C1CCOC1
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-Dimethylaminomethyl-5-trifluoromethyl-phenylamine | CN(C)CC=1C=C(C=C(C1)C(F)(F)F)N | C10H13F3N2
